US06528510B1
N-(5-tert-Butyl-2-nitro-phenyl)-2,2,2-trifluoro-acetamide
The title compound was prepared following the procedure used in Example OO-1 using trifluoroacetic anhydride (300 mL), 3-tert-butyl-phenylamine (144 g, 951 mmol), and potassium nitrate (106 g, 1047 mmol). The crude product was used further without any purification. MS(APCI): 289 (M−H).

reactant | 3-tert-butyl-phenylamine | 951 mmol, 144 g | C(C)(C)(C)C=1C=C(C=CC1)N | C10H15N
reactant | potassium nitrate | 1047 mmol, 106 g | [N+](=O)([O-])[O-].[K+]
reactant | trifluoroacetic anhydride | 300 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-(5-tert-Butyl-2-nitro-phenyl)-2,2,2-trifluoro-acetamide | C(C)(C)(C)C=1C=CC(=C(C1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C12H13F3N2O3
